US03962443
5,8-Dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido-[2,3-d]pyrimidine-6-carboxylic acid (compound 1)
Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3 -d]pyrimidine-6-carboxylate (1.6 g) was dissolved in 30 ml of a 10% aqueous solution of sodium hydroxide by heating at 90° - 95°C for one hour. Neutralization of the reaction mixture with acetic acid under cooling yielded a crude solid, which was recrystallized from dimethylformamide to give 1.1 g of the product as a pure state.

reactant | Ethyl 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3 -d]pyrimidine-6-carboxylate | 1.6 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C18H23N5O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 5,8-Dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido-[2,3-d]pyrimidine-6-carboxylic acid | 1.1 g | C(C)N1C=C(C(C2=C1N=C(N=C2)N2CCNCC2)=O)C(=O)O | C14H17N5O3
